Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
Melena and Hematemesis
 
Major Surgical or Invasive Procedure:
TIPS ___ - Unsuccessful

 
History of Present Illness:
___ y/o M w/ h/o HIV, Hepatitis B and cirrhosis who presented to 
___ with melena and hematemesis.  Patient was 
admitted to this OSH approximately 2 weeks ago with a variceal 
bleed that was banded on ___.  At that time patient had 
___ hematemesis.  Following that returned to work and was in 
his usual state of health until day of admission.  Said his 
friends thought he looked gray and the patient described feeling 
bloated.  He started to pass dark black stools so presented to 
OSH ED.
. 
On arrival to ___, patient reported mild epigastric 
discomfort.  BP was stable at 150/84, HR in the 80___s.  HGb was 
8.8 on arrival (down from 11 previously).  Patient taken for 
endoscopy which reportedly showed varices (report not available) 
that were banded.  Reportedly there were stigmata of recent 
bleeding.  Also showed gastric varices in the antra and cardia 
w/o stigmata of bleeding.
.
On the floor, VS T 97.8, HR 70, BP 126/76, RR 21, O2 92% RA.
.
Review of systems: 
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes. 

 
Past Medical History:
- Cirrhosis with varices, ascites in past.  No encephalopathy.  
Two recent variceal bleeds
- Hepatitis B -> reportedly cleared, cause for cirrhosis unclear 
as per patient -> had CMV viral inclusions on biopsy.
- HIV (CD4 253, VL UD ___ + on HAART
- HTN
- Hyperlipidemia
- Anemia
- GERD
- h/o liver biopsy in ___ showing lobular hepatitis, CMV 
positive
- Hemorrhoids

 
Social History:
___
Family History:
Non-Contributary
 
Physical Exam:
General: Alert, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: no foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
 
Pertinent Results:
___ 06:06PM   GLUCOSE-78 UREA N-16 CREAT-1.0 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-24 ANION GAP-14
___ 06:06PM   estGFR-Using this
___ 06:06PM   ALT(SGPT)-16 AST(SGOT)-16 LD(LDH)-147 ALK 
PHOS-125 TOT BILI-0.7
___ 06:06PM   ALBUMIN-3.4* CALCIUM-7.7* PHOSPHATE-2.6* 
MAGNESIUM-1.8
___ 06:06PM   WBC-6.1 RBC-4.08* HGB-11.9* HCT-35.3* MCV-87 
MCH-29.1 MCHC-33.7 RDW-16.2*
___ 06:06PM   NEUTS-66.9 ___ MONOS-5.2 EOS-6.0* 
BASOS-0.1
___ 06:06PM   PLT COUNT-144*
___ 06:06PM   ___ PTT-23.6 ___

___ AP CHEST. 
  
HISTORY: ___ man with HIV and hep C, with hypoxemia. 
  
FINDINGS: No prior studies available for direct comparison. 
  
Cardiac silhouette and mediastinum is normal. The lungs are 
clear. There is 
no pneumothoraces or focal consolidation. Bony structures are 
intact. 
  
IMPRESSION: 
  
No signs of acute cardiopulmonary process. 

___ RUQ U/S with Doppler
RIGHT UPPER QUADRANT LIVER ULTRASOUND. 
  
COMPARISON: None. 
  
HISTORY: Hepatitis B cirrhosis with variceal bleeds, 
pre-operative for TIPS. 
Evaluate for portal vasculature and ascites. 
  
FINDINGS: The liver demonstrates a slightly nodular and 
coarsened echotexture 
consistent with cirrhosis. There are no focal liver lesions 
identified. The 
main portal vein is patent. There is normal hepatopetal flow. 
There is 
normal color flow and waveforms within the hepatic veins. The 
gallbladder is 
mildly distended and contains a gallstone. There is no 
pericholecystic fluid 
or gallbladder wall thickening. Moderate amount of ascites is 
noted. The 
pancreas is unremarkable. The spleen is enlarged and measures 15 
cm. There 
is no intrahepatic or extrahepatic biliary dilatation. The 
common bile duct 
measures 3 mm. 
  
IMPRESSION:  
1. Findings consistent with cirrhosis including splenomegaly and 
ascites. 
Patent portal vein. 
2. Cholelithiasis. No evidence of acute cholecystitis. 

 
Brief Hospital Course:
# Variceal Bleed: He always remained hemodynamically stable, 
with a minimal Hct drop at ___ and ___ was never 
unstable during most recent bleed.  HCT remained stable in house 
as well ___.  He was followed here by hepatology who 
recommended a TIPS procedure, unfortunately TIPS failed in ___.  
He got a large dye load and had 1 hour of fluoro time, so he was 
discharge to return in 5 days for CT mapping of his liver on 
___, and repeat TIPS on ___.  His heart rate was too low for 
nadolol and given his recent dye load we avoided diuretics to 
exonerate his kidneys.
.
Patient to return ___ for repeat TIPS.
.
# Cirrhosis:  There is no clear etiology as per patient, hep B 
serologies were c/w cleared HBV, HCV was negative, patient 
denies alcohol.  Broad cirrhosis work-up in house was 
unrevealing.
.
Patient to follow-up with hepatology in house.
.
# HIV: CD4 in house is 173, VL-is undetectable, CD4 Nadir of 8 
at diagnosis, risk factor is heterosexual sex per patient.  
Continue home medications.  Patient is on Dapsone for PCP ppx 
already as he is newly <200.
- HAART
- Dapsone 
.
# Hyperlipidemia: we continued his statin.

.

 
Medications on Admission:
Medications: 
(On transfer)
octreotide drip at 50 mcg per hour
protonix 40 po daily
epivir 150 BID
dapsone 100mg daily
prezista 400mg PO BID
norvir 100mg PO daily
levaquin 500mg IV q24
tylenol prn
norvasc 5mg daily
dulcolax prn
colace prn
ferrous sulfate 325mg daily
reglan prn
zofran prn
pravachol 10mg daily
ambien 5mg PO qhs prn
.
Home medications
- Omeprazole 20mg daily
- Famotidine 20 daily
- Dapsone 50mg daily
- Prezista 400mg daily
- Epivir 150mg BID ?
- amlodipine 2.5mg daily
- pravastatin 10mg qhs
- norvir 100mg BID

 
Discharge Medications:
1. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
2. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
3. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).  
4. Ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
5. Darunavir 400 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
6. Lamivudine 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Pravastatin 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
8. Dapsone 100 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Bleeding esophageal varices
Cirrhosis
HIV/AIDS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred to ___ on ___ for evaluation for a 
TIPS procedure after your second variceal bleed in a few weeks.  
You were evaluated by our liver specialists who felt you would 
benefit from the procedure.  Unfortunately, this procedure was 
unsuccessful on first attempt.  It is very important that you 
refrain from lifting heavy objects.  You remained comfortable 
and without repeat episodes of bleeding.  You will have the 
repeat-procedure done next week.

The following follow-up visits are extremely important:
- Please arrive at the liver clinic this coming ___ promptly 
at 8:00am.  You will need bloodwork checked (in particular, your 
kidney function) prior to your CT scan later that morning, as 
listed below.  The phone number for the clinic is ___, 
and the clinic is located in the ___ Building, ___ 
___ (across from the emergency department).  The lab is 
located on the ground floor.
- A CT scan of your abdomen to map your liver veins is needed 
prior to your repeat TIPS.  This test has been scheduled for you 
on ___ at 9:15 AM on the ___ floor of the ___ 
building at the ___.
- The TIPS procedure is scheduled for ___ at 2:00pm in the 
___ on the ___.
- Following your TIPS you must have an abdominal ultrasound; 
this test has been ordered for you.  You must call ___ 
to schedule this for this coming ___.
- It is very important to follow-up with Dr. ___ in the liver 
clinic on ___ at 4:20pm.  He is located in the ___ 
___ Building, as listed above.
- Please also contact your primary care physician to schedule an 
appointment within the next ___ weeks.

The following changes were made to your medicatons:
Your omeprazole 20mg QD, was changed to Pantoprazole 40mg twice 
per day
You were started on Sucralfate 1 gram four times per day.
You were started on Ciprofolxacin 500mg twice per day for 2 
days.
Your famotidine was stopped.
Your amlodipine was stopped.
Other than the above medication changes, you may continue taking 
your home medications as you were prior to this admission.
 
Followup Instructions:
___